US06100268
A suspension of (±)-methyl 6fluoro-3,4-dihydro-8-iodo-2H-1-benzopyran-2-carboxylate (0.026 mol), (trifluoromethyl)trimethylsilane (0.081 mol), cuprous iodide (0.1 mol) and kalium fluoride (0.081 mol) in a mixture of DMF (50 ml) and 1-methyl-2-pyrrolidinone (50 ml) was stirred for 3 h at 60° C. The cooled reaction mixture was poured out into a solution of iron (III) chloride (200 g) and hydrochloric acid (50 ml) in water (300 ml). This mixture was extracted three times with diethyl ether (150 ml). The combined organic layers were washed with a 5% aqueous Na2S2O3 solution (decolorization), dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by flash column chromatography over silica gel (eluent: CH2Cl2). The pure fractions were collected and the solvent was evaporated, yielding 5.7 g (78.8%). This fraction was recrystallized from DIPE. The precipitate was filtered off and dried, yielding 1.2 g(16.6%) (±)-methyl 6-fluoro-3,4-dihydro-8-(trifluoromethyl)-2H-1-benzopyran-2-carboxylate; mp. 71.8° C. (interm 4-b).

reactant | (±)-methyl 6fluoro-3,4-dihydro-8-iodo-2H-1-benzopyran-2-carboxylate | 0.026 mol | FC=1C=C(C2=C(CCC(O2)C(=O)OC)C1)I | C11H10FIO3
reactant | (trifluoromethyl)trimethylsilane | 0.081 mol | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | kalium fluoride | 0.081 mol | [F-].[K+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | 1-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 300 ml | O | H2O
catalyst | iron (III) chloride | 200 g | [Fe](Cl)(Cl)Cl
product | (±)-methyl 6-fluoro-3,4-dihydro-8-(trifluoromethyl)-2H-1-benzopyran-2-carboxylate | 1.2 g, 16.6% | FC=1C=C(C2=C(CCC(O2)C(=O)OC)C1)C(F)(F)F | C12H10F4O3
